US07091215B2
2-[3-[Di(cyclopropylmethyl)amino]-2-(methylsulfanyl)pyrazolo [1,5-a]pyridin-7-yl]-3,5-dimethylphenol
A 1 M boron tribromide/dichloromethane solution (0.42 mL) was added to a solution of N,N-dicyclopropylmethyl-N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amine (35 mg) in dichloromethane (10 mL) at room temperature under a nitrogen atmosphere, and the mixture was stirred for 10 minutes. The reaction mixture was added to ice water, extraction was performed with ethyl acetate, and the organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography, and the title compound (17 mg) was obtained from the n-hexane:ethyl acetate (6:1) fraction as white crystals.

reactant | boron tribromide dichloromethane | 1 M, 0.42 mL | B(Br)(Br)Br.ClCCl
reactant | N,N-dicyclopropylmethyl-N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amine | 35 mg | C1(CC1)CN(C=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2C)C)OC)SC)CC2CC2 | C25H31N3OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-[3-[Di(cyclopropylmethyl)amino]-2-(methylsulfanyl)pyrazolo [1,5-a]pyridin-7-yl]-3,5-dimethylphenol | 17 mg | C1(CC1)CN(C=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2C)C)O)SC)CC2CC2 | C24H29N3OS
